US07572808B2
B. Preparation of 8-bromo-7-chloro-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of triphosgene (5.766 g, 19.43 mmol) in anhydrous THF (50 mL) at room temperature was added 1-(3-bromo-4-chloropyridin-2-yl)hydrazine (1.438 g, 70% pure) portion-wise over 15 min. The resulting suspension was stirred under argon at room temperature overnight, then cooled at 0° C. and quenched carefully by slow addition of water (30 mL). The resulting yellowish suspension was filtered, and the solid collected was washed with water (20 mL×3), then diethyl ether (5 mL), and dried in a 60° C. vacuum oven to obtain 0.525 g of the title compound, 8-bromo-7-chloro-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one as an off-white solid. HPLC/MS: retention time=1.93 min, [M+H]+=248.

reactant | triphosgene | 19.43 mmol, 5.766 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-(3-bromo-4-chloropyridin-2-yl)hydrazine | 1.438 g | BrC=1C(=NC=CC1Cl)NN | C5H5BrClN3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-bromo-7-chloro-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.525 g | BrC=1C=2N(C=CC1Cl)C(NN2)=O | C6H3BrClN3O
